US06319940B1
At room temperature, a mixture of 10 g (0.063 mol) of methyl 3-hydroxy-thiophene-2-carboxylate and 90 ml of toluene is admixed with a solution of 5.1 g (0.127 mol) of sodium hydroxide in 8 ml of water. The reaction mixture is heated with stirring to 90° C., 1.1 g of tetrabutyl-phosphonium bromide are added and 16.4 g (0.189 mol) of chlorodifluoromethane are introduced over a period of 30 minutes. The mixture is then stirred at 90° C. for one hour. The reaction mixture is subsequently cooled to room temperature and admixed with water. The organic phase is separated off, dried over sodium sulphate and then concentrated under reduced pressure at 50° C. The residue that remains is chromatographed over silica gel using cyclohexane:ethyl acetate=3:1 as mobile phase. Concentration of the eluate gives 4.1 g (31.3% of theory) of methyl 3-difluoromethoxy-thiophene-2-carboxylate in the form of an oil.

reactant | methyl 3-hydroxy-thiophene-2-carboxylate | 0.063 mol, 10 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
reactant | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 0.127 mol, 5.1 g | [OH-].[Na+]
reactant | chlorodifluoromethane | 0.189 mol, 16.4 g | ClC(F)F | CHClF2
solvent | water | 8 ml | O | H2O
catalyst | tetrabutyl-phosphonium bromide | 1.1 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | methyl 3-difluoromethoxy-thiophene-2-carboxylate | 4.1 g, 31.3% | FC(OC1=C(SC=C1)C(=O)OC)F | C7H6F2O3S
